US04145347
From 8.5 g. of ethyl 2-oxo-1-pyrrolidineacetate and 8.8 g. of 2-(dimethylamino)ethylamine, following the procedure of Example 1, there is obtained N-[2-(dimethylamino)ethyl]-2-oxo-1-pyrrolidineacetamide; b.p. 146°-147° C./0.1 mm.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 2-(dimethylamino)ethylamine | CN(CCN)C | C4H12N2
product | N-[2-(dimethylamino)ethyl]-2-oxo-1-pyrrolidineacetamide | CN(CCNC(CN1C(CCC1)=O)=O)C | C10H19N3O2
